US09127007B2
(e). 2-amino-3-(1H-indol-3-yl)-2-methylpropan-1-ol
To a solution of alpha-methyl-DL-tryptophan (100 mg) in dry THF (10 ml) was added a borane-tetrahydrofuran complex (1.14 ml) dropwise. The reaction mixture was heated at 65° C. for 4.5 hours. The reaction mixture was quenched with ethanol (3 ml). The reaction mixture was concentrated and extracted with ethyl acetate and water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by preparative HPLC eluting with acetonitrile and water. The pure fractions were collected and freezedried.

reactant | alpha-methyl-DL-tryptophan | 100 mg | CC(N)(CC1=CNC2=CC=CC=C12)C(=O)O | C12H14N2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-amino-3-(1H-indol-3-yl)-2-methylpropan-1-ol | NC(CO)(CC1=CNC2=CC=CC=C12)C | C12H16N2O
